US05972975
A mixture of dimethyl (2-(6-amino-4-methyl-2-pyridinyl)ethyl)malonate (34 mg, 0.13 mmol) in 2.0 mL of 2.0 N hydrochloric acid was refluxed for 8 h. After cooling to room temperature, the reaction was extracted with 2×15 mL of dichloromethane and the aqueous phase was concentrated in vacuo to give 17 mg (58% yield) of 4-(6-amino-4-methyl-2-pyridinyl)butanoic acid hydrochloride.

reactant | dimethyl (2-(6-amino-4-methyl-2-pyridinyl)ethyl)malonate | 0.13 mmol, 34 mg | NC1=CC(=CC(=N1)CCC(C(=O)OC)C(=O)OC)C | C13H18N2O4
reactant | hydrochloric acid | 2.0 N, 2.0 mL | Cl | ClH
product | 4-(6-amino-4-methyl-2-pyridinyl)butanoic acid hydrochloride | 17 mg, 58% yield | Cl.NC1=CC(=CC(=N1)CCCC(=O)O)C | InChI=1S/C10H14N2O2.ClH/c1-7-5-8(12-9(11)6-7)3-2-4-10(13)14;/h5-6H,2-4H2,1H3,(H2,11,12)(H,13,14);1H
